US04058539
A mixture of 1.5 g. of 19-hydroxy-17β-pivaloxyandrosta-4,7-dien-3-one and 22.5 ml. of t-butylisocyanate was heated at 95°-100° C. under nitrogen for two days, whereupon 45 ml. of hexane was added and the mixture was concentrated. Subsequent filtration yielded 19-hydroxy-17β-pivaloxyandrosta-4,7-dien-3-one N-t-butylcarbamate, mp 163°-167° C.

reactant | 19-hydroxy-17β-pivaloxyandrosta-4,7-dien-3-one | OC[C@]12CCC(C=C1CC=C1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)OC(C(C)(C)C)=O)=O | C24H34O4
reactant | t-butylisocyanate | C(C)(C)(C)N=C=O | C5H9NO
solvent | hexane | CCCCCC | C6H14
product | 19-hydroxy-17β-pivaloxyandrosta-4,7-dien-3-one N-t-butylcarbamate | OC[C@]12CCC(C=C1CC=C1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)OC(C(C)(C)C)=O)=O.C(C)(C)(C)NC([O-])=O | InChI=1S/C24H34O4.C5H11NO2/c1-22(2,3)21(27)28-20-8-7-18-17-6-5-15-13-16(26)9-12-24(15,14-25)19(17)10-11-23(18,20)4;1-5(2,3)6-4(7)8/h6,13,18-20,25H,5,7-12,14H2,1-4H3;6H,1-3H3,(H,7,8)/p-1/t18-,19-,20-,23-,24+;/m0./s1
